US07906541B2
184 mg of 9-ethyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide (0.533 mmol) were solubilised in methanol (35 mL), then 231 mg (8 eq) of NaOMe were added and the solution stirred at room temperature. After 48 h the solvent was evaporated, water was added (20 mL) and the mixture extracted with CH2Cl2 (3×20 mL). The organic layer was dried with MgSO4 and evaporated under reduced pressure to afford 1-ethyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one as a white powder (87 mg, 65%). Mp 74° C.; Rf=0.48 (CH2Cl2/AcOEt 8:2); 1H NMR (300 MHz, CDCl3) δ=1.35 (3H, t, J=7.2, CH3), 2.13 (3H, d, J=1.1, CH3), 2.22 (3H, s, SCH3), 3.94 (2H, q, J=7.2, CH2), 6.22 (1H, q, J=1.1, H5), 6.86 (1H, m, Ar), 6.99-7.09 (3H, m, Ar); 13C NMR (75 MHz, CDCl3) δ=13.46, 16.76, 20.28, 35.74, 107.58, 108.92, 120.81, 121.26, 126.59, 127.30, 127.50, 129.24, 151.75; HRMS m/z C13H17N2OS [M+H]+ calcd: 249.1056, found: 249.1056.

reactant | 9-ethyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide | 0.533 mmol, 184 mg | [I-].C(C)[N+]1=C2N(C3=C1C=CC=C3)C(=CS2)C
reactant | NaOMe | 231 mg, 8 eq | C[O-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | 1-ethyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one | 87 mg, 65% | C(C)N1C(N(C2=C1C=CC=C2)\C(=C/SC)\C)=O | C13H16N2OS
